US09193722B2
3-(4-(tert-butylmethylsilyl)-3,5,6-trifluoropyridin-2-yl)-1H-pyrazolo[3,4,b]pyridine
n-BuLi (1.6M in hexane) (13.90 mL of 1.6 M, 22.24 mmol) was added to a solution of diisopropylamine (2.353 g, 3.259 mL, 23.25 mmol) in THF (50.00 mL) cooled to −5/−10° C. under N2. Fifteen minutes later, the solution was cooled to −78° C. A solution of tert-butyl-dimethyl-(2,3,5-trifluoro-4-pyridyl)silane (5 g, 20.22 mmol) in THF (10.00 mL) was added to the reaction mixture which was stirred for 45-50 min. 2-Fluoro-N-methoxy-N-methylnicotinamide (4.282 g, 23.25 mmol) was added to the reaction mixture which was stirred at −78° C. for a further 2 hours. The reaction mixture was quenched with a saturated ammonium chloride aqueous solution. It was diluted with ethyl acetate. The organic was washed with brine. It was dried over magnesium sulfate and concentrated in vacuo after filtration. The crude mixture was taken up in a 1M hydrazine solution in THF (80 mL of 1 M, 80.00 mmol) and stirred at room temperature for 18 hours. The brown solution was concentrated under reduced pressure. The residue was triturated with DCM. A brown solid was filtered off. The filtrate was partially concentrated and purified on silica gel eluting with petrol ether/ethyl acetate to afford the title compound as a beige solid (1.8 g, 30%). 1H NMR (CDCl3) 0.54 (6H, s), 1.03 (9H, s), 7.32-7.35 (1H, d), 8.70-8.71 (1H, d), 8.89-8.91 (1H, d), 12.1 (1H, s).

reactant | n-BuLi | 22.24 mmol, 1.6M, 13.90 mL | [Li]CCCC
reactant | diisopropylamine | 23.25 mmol, 3.259 mL, 2.353 g | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl-dimethyl-(2,3,5-trifluoro-4-pyridyl)silane | 20.22 mmol, 5 g | C(C)(C)(C)[Si](C1=C(C(=NC=C1F)F)F)(C)C | C11H16F3NSi
reactant | 2-Fluoro-N-methoxy-N-methylnicotinamide | 23.25 mmol, 4.282 g | FC1=C(C(=O)N(C)OC)C=CC=N1 | C8H9FN2O2
reactant | hydrazine | 1M | NN | H4N2
solvent | THF | 50.00 mL | C1CCOC1 | C4H8O
solvent | THF | 10.00 mL | C1CCOC1 | C4H8O
solvent | THF | 80.00 mmol, 1 M, 80 mL | C1CCOC1 | C4H8O
product | 3-(4-(tert-butylmethylsilyl)-3,5,6-trifluoropyridin-2-yl)-1H-pyrazolo[3,4,b]pyridine | 1.8 g, 30% | C(C)(C)(C)[SiH](C1=C(C(=NC(=C1F)F)C1=NNC2=NC=CC=C21)F)C | C16H17F3N4Si
